*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/8.20e-02[uF]/50[V]
* Murata P/N :GRM155R71H823KE14
* Property : C = 8.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H823KE14 Port1 Port2
C01 Port1 N01 7.92e-08
R01 Port1 N01 6.10e+08
L02 N01 N02 1.75e-10
R03 N02 N03 1.71e-02
C04 N03 N04 9.52e-06
R04 N03 N04 4.62e+02
C05 N04 N05 1.23e-05
R05 N04 N05 5.43e+01
C06 N05 N06 9.65e-06
R06 N05 N06 7.85e+00
C07 N06 N07 8.24e-06
R07 N06 N07 8.81e-01
C08 N07 N08 6.29e-06
R08 N07 N08 1.14e-01
C09 N08 N09 4.91e-06
R09 N08 N09 1.49e-02
L10 N09 N10 1.23e-11
R10 N09 N10 8.49e-02
L11 N10 N11 6.92e-11
R11 N10 N11 8.31e-02
C12 N11 N12 1.54e-06
L12 N11 N12 4.25e-12
R12 N11 N12 5.20e-03
C13 N12 N13 6.17e-08
L13 N12 N13 4.81e-11
R13 N12 N13 2.15e-02
C14 N13 Port2 6.35e-12
L14 N13 Port2 4.84e-11
R14 N13 Port2 5.20e+00
.ENDS GRM155R71H823KE14
